US08217065B2
{5-[2-(2,6-Dichloro-phenyl)-3H-benzoimidazol-5-yl]-[1,3,4]oxadiazol-2-yl}-(6-methyl-pyridin-3-yl)-amine
Combine 3-amino-6-methyl-pyridine (66 mg, 0.606 mmol) and di-imidazol -1-yl-methanethione (108 mg, 0.606 mmol) in DMF (1.5 mL) and stir for 4 hr. Add 2-(2,6-dichloro-phenyl)-3H-benzoimidazole-5-carboxylic acid hydrazide (150 mg, 0.466 mmol) and DMF (1 mL). Stir for 3 days. Add EDCI (179 mg, 0.932 mmol) and heat to 80° C. for 45 min. Upon cooling, dilute the reaction with EtOAc (50 mL) and extract with water (10 mL) and 1 N NaOH (10 mL). Combine the aqueous layers and allow to stand overnight. Filter the combined aqueous layers and wash the collected solid with Et2O. Suspend the solid in boiling toluene/EtOAc. Allow the suspension to cool to 4° C. and collect the solid. Wash with Et2O. Purify the solid by reverse phase HPLC (20-65% ACN/H2O+5 mM NH4OH) to afford the title compound: 1H NMR (400 MHz, DMSO-d6) δ ppm 2.46 (s, 3 H) 7.33 (d, J=8.34 Hz, 1 H) 7.64-7.68 (m, 1 H) 7.71 (s, 1 H) 7.73 (d, J=2.02 Hz, 1H) 7.86 (br. s., 2 H) 8.04 (dd, J=8.40, 2.46 Hz, 1 H) 8.13 (br. s., 1 H) 8.70 (d, J=2.53 Hz, 1 H) 10.88 (br. s., 1 H); MS m/s=437.0 (M+1).

reactant | 3-amino-6-methyl-pyridine | 0.606 mmol, 66 mg | NC=1C=NC(=CC1)C | C6H8N2
reactant | di-imidazol -1-yl-methanethione | 0.606 mmol, 108 mg | N1(C=NC=C1)C(=S)N1C=NC=C1 | C7H6N4S
reactant | 2-(2,6-dichloro-phenyl)-3H-benzoimidazole-5-carboxylic acid hydrazide | 0.466 mmol, 150 mg | ClC1=C(C(=CC=C1)Cl)C=1NC2=C(N1)C=CC(=C2)C(=O)NN | C14H10Cl2N4O
reactant | EDCI | 0.932 mmol, 179 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | {5-[2-(2,6-Dichloro-phenyl)-3H-benzoimidazol-5-yl]-[1,3,4]oxadiazol-2-yl}-(6-methyl-pyridin-3-yl)-amine | ClC1=C(C(=CC=C1)Cl)C=1NC2=C(N1)C=CC(=C2)C2=NN=C(O2)NC=2C=NC(=CC2)C | C21H14Cl2N6O
